US04234594
2(4-Chloro-1-methyl-5-pyrazolyl) amino-2-imidazoline hydrochloride
2(1-Methyl-5-pyrazolyl) amino-2-imidazoline (15.74 g.) was treated with 2.60 g. chlorine gas in 30 ml. acetic acid, while cooling in ice, by the method of Example VII to give 6.34 g. mp 254°-257°.

reactant | 2(1-Methyl-5-pyrazolyl) amino-2-imidazoline | 15.74 g | CN1N=CC=C1NC=1NCCN1 | C7H11N5
reactant | chlorine | ClCl | Cl2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2(4-Chloro-1-methyl-5-pyrazolyl) amino-2-imidazoline hydrochloride | Cl.ClC=1C=NN(C1NC=1NCCN1)C | InChI=1S/C7H10ClN5.ClH/c1-13-6(5(8)4-11-13)12-7-9-2-3-10-7;/h4H,2-3H2,1H3,(H2,9,10,12);1H
